US06028195
1-[(5-Acetyl-2-methoxy-6-methylpyridin-3- yl)aminocarbonyl]-4-(3,5-dichlorophenyl)piperazine
Phenyl N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(3,5-dichlorophenyl)piperazine were reacted by the same way with the example 46 to obtain the titled compound.

reactant | Phenyl N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C16H16N2O4
reactant | 1-(3,5-dichlorophenyl)piperazine | ClC=1C=C(C=C(C1)Cl)N1CCNCC1 | C10H12Cl2N2
product | 1-[(5-Acetyl-2-methoxy-6-methylpyridin-3- yl)aminocarbonyl]-4-(3,5-dichlorophenyl)piperazine | yield: 81% | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)Cl)Cl | C20H22Cl2N4O3
